US07601844B2
Benzyl (R)-4-amino-5-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-5-oxopentylcarbamate hydrochloride (50.5 mg, 0.096 mmol) was dissolved in dichloromethane (0.5 mL) and added cyclopentane carbonylchloride (14 μL, 0.12 mmol) followed by DIPEA (42 μL, 0.24 mmol). The solution was stirred for 2 h, concentrated, and partitioned between EtOAc (2 mL) and aq NaHCO3 (0.5 mL). The EtOAc layer was separated, dried over magnesium sulfate, and concentrated to give benzyl (R)-5-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-4-(cyclopentanecarboxamido)-5-oxopentylcarbamate which was used without further purification.

reactant | Benzyl (R)-4-amino-5-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-5-oxopentylcarbamate hydrochloride | 0.096 mmol, 50.5 mg | Cl.N[C@H](CCCNC(OCC1=CC=CC=C1)=O)C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C
reactant | cyclopentane carbonylchloride | 0.12 mmol, 14 μL | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | DIPEA | 0.24 mmol, 42 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | benzyl (R)-5-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-4-(cyclopentanecarboxamido)-5-oxopentylcarbamate | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CCCNC(OCC1=CC=CC=C1)=O)NC(=O)C1CCCC1)=O)(C)C)O | C32H42ClN3O5
